Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: PSYCHIATRY
 
Allergies: 
Ciprofloxacin Hcl
 
Attending: ___
 
Chief Complaint:
"I made a stupid mistake which I'll never make again."
 
Major Surgical or Invasive Procedure:
ECT x 5 unilateral treatments (inpatient)

 
History of Present Illness:
___ y.o. man with a h/o mood disorder and polysubstance 
dependence was brought to ED via EMS after he was found 
unresponsive in his apartment by his niece on ___ around 8 
pm.  Patient was sprawled on living room floor, next to a broken 
table.  Niece had come by after the patient's sister (niece's 
mother) had not heard from Mr. ___ for a day, which was 
very unusual.  Patient was given Narcan, started on NAC, 
admitted to ICU for monitoring.  Patient is drowsy, but able to 
participate in an interview.  He reported to me that he has been 
depressed for quite a while, although more acutely over the past 
several weeks in the throes of mounting financial pressures (had 
been thinking of filing for bankruptcy, has not been able to pay 
his bills) and realizing that his wife of ___ years has left him 
for good (she separated from him ~ 9 months ago).  Patient 
described feeling hopeless & helpless.  He is not eating 
well,estimating a 10 lbs weight loss over past several weeks.  
His sleep is fair as far as he can recall (he takes meds for 
sleep). He has trouble concentrating and his energy has been 
low.  For the past several days he has been contemplating 
suicide.  He recently spoke with his attorney to get his affairs 
in order.  He did not think to call his psychiatrist of ___ years 
for help.  He also wrote a suicide note, which he said was 
basically to tell his wife that he could not continue to live 
without her.  He acknowledged overall feeling overwhelmed by his 
life.  He is ambivalent re. his survival.

Regarding the overdose itself, Mr. ___ estimated that he 
took 50 pills of percocet and 50 pills of 5 mg diazepam pills.  
He gets both of these medications "from the black market," 
usually taking them for his near daily migraine headaches.   He 
thinks he took the pills around 9:30 am and by the dates from 
his niece, that would have been on ___.  He denied using any
alcohol or other drugs.  He expected to die.  The last time 
anyone talked to Mr. ___ was on ___, at which point 
Mr. ___ was c/o right sided thoracic pain.   Around that 
time, he had also reportedly written an email to his sister that 
had a great deal of content that suggested a worsening 
hopelessness and despair (this was reported to me by patient's 
niece), but did not report having thoughts or intentions of 
suicide.  

 
Past Medical History:
Hypertension
Hyperlipidemia
CKD with baseline Cr 2.0, single kidney s/p left nephrectomy at 
age ___ for non-functioning kidney
Hypothyroidism
Depression, no prior suicide attempt (per sister)
___ Cancer 
Migraine headache
Pericarditis (remote)
Sexual dysfunction, s/p penile prosthesis implant
s/p left herniorrhaphy in ___
h/o Angina reported in chart but had normal ETT in ___
Prediabetes
PCP:  ___ ___
Psychiatrist:  ___ ___ (for emergency: 
___
PAST PSYCH HX & PSYCHIATRIC ROS:  Patient denied any previous 
h/o
inpatient psychiatric hospitalizations or suicidal behavior.  He
has been involved in psychiatric care "for a long time," most
recently with Dr. ___ in ___ for weekly
treatment x ___ years.  Patient could not recall any medication
trials except olanzapine, which he took to help with sleep. 
Could not recall if he has ever been given a d/o bipolar
disorder, although he described himself as "an overspender,"
stating that he tends to buy a lot of real estate.  He has 
gotten
himself into enough debt that he has had to file bankruptcy once
and is on the verge of filing again.  Patient could not give me
any history regarding elevated or irritable mood existing for
stretches of days to weeks, etc.  Denied any psychotic symptoms
 
Social History:
___
Family History:
Mother died from complications of obesity at age ___. Father 
committed suicide at age ___. 
 
Physical Exam:
EXAM (upon admission):  97.3, 85 (74-99), 94/58, 11, 100% on O2. 
 Drowsy man, dressed in hospital ___, nasal canula in place.  
Able to mostly stay awake for conversation, although 
occasionally needed prompting to wake up.  Speech is somewhat 
dysarthric, frequently mixing up some lower frequency words 
(e.g., when telling me what medications he takes, etc), but 
otherwise language grossly
normal.  Mood "overwhelmed" with a dysphoric affect.  Thoughts 
slowed, no FOI, no paranoia.  + themes of 
hopelessness/helplessness.  Ambivalent re. continued survival.  
Insight limited, judgment poor.

Oriented to self, gave hospital as ___, date ___.  DOWB 
intact but slow.  STM ___ reg, ___ recalled, ___ with clue, 
third with list.   Naming intact.  Repetition intact.  Able to 
name current president, but when asked to name 5 presidents in 
past ___ years, he included both ___ & ___.  + 
trouble with CDT, began with ___ numeral IV in the 12 
position then showed
poor planning and placement of the other numbers, recognized, 
but could not correct error.  I pointed to the half of the clock 
where he did not place any numbers and he attempted to correct 
his drawing w/o much success.  Could not place hands correctly.  


 
Pertinent Results:
___ 06:55AM   WBC-9.2 RBC-4.08* HGB-11.7* HCT-33.9* MCV-83 
MCH-28.6 MCHC-34.5 RDW-17.3*
___ 06:55AM   PLT COUNT-316
___ 07:45AM   GLUCOSE-93 UREA N-14 CREAT-1.4* SODIUM-141 
POTASSIUM-4.4 CHLORIDE-107 TOTAL CO2-27 ANION GAP-11
___ 06:55AM   GLUCOSE-96 UREA N-14 CREAT-1.6* SODIUM-143 
POTASSIUM-4.2 CHLORIDE-106 TOTAL CO2-31 ANION GAP-10
___ 07:00AM BLOOD Glucose-84 UreaN-21* Creat-1.7* Na-142 
K-4.9 Cl-105 HCO3-25 AnGap-17
___ 01:50PM BLOOD UreaN-16 Creat-1.3*
___ 06:55AM   CK(CPK)-362*
___ 01:50PM BLOOD CK(CPK)-137
___ 07:00AM BLOOD Lithium-0.9
___ 07:15AM BLOOD Valproa-70
___ 06:34PM URINE Color-Straw Appear-Clear Sp ___
___ 06:34PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-5.5 Leuks-NEG 
URINE CULTURE (Final ___:    NO GROWTH.

EKG, ___: Sinus rhythm. Tracing is within normal limits. 
QT/QTc 360/384.

EKG, ___: Sinus tachycardia. Modest inferior lead ST-T wave 
changes are non-specific and may be within normal limits. Since 
the previous tracing of ___ sinus tachycardia (rate 105) and 
modest inferior lead ST-T wave changes are now present. 

EKG, ___:   Normal sinus rhythm. Short P-R interval. Since 
the previous tracing the rate has decreased. ST-T waves have 
improved. 
Rate PR QRS QT/QTc P QRS T 
70 146 92 374/391 45 36 55 

Chest x-rays:

___: There are low lung volumes. There is a widened 
mediastinum likey 
exaggerated by supine portable technique. Bronchovascular 
crowding in the 
setting of low lung volumes is noted. No definite consolidation 
or effusion. 
Please note that the right lateral margin of the thorax was 
excluded from 
film. 
  
IMPRESSION: Limited study with apparent widenened mediastinum, 
likely due to technique. A dedicated PA/lateral is recommended 
to futher assess.  

___: SINGLE FRONTAL VIEW OF THE CHEST: Evaluation is limited 
due to patient's body habitus. Mild left apical pleural 
thickening is unchanged since prior CT from ___. 
Left lower lobe oval shaped ill defined opacity represents early 
pneumonia or atelectasis. There is no evidence of congestive 
heart failure. There is no pneumothorax or pleural effusion. 
Heart is normal in size. The aorta is mildly calcified and 
tortuous. 
  
IMPRESSION:  
1. Left lower lobe oval shaped ill defined opacity represents 
early pneumonia 
or atelectasis. Follow-up chest radiograph in ___ weeks to 
demonstrate 
resolution and exclude neoplastic etiology is recommended.  
2. Stable left apical pleural thickening. 

___: In comparison with the study of ___, there appears 
to be some 
improvement in the opacification at the left base, some of which 
may reflect the substantially better degree of inspiration. 
Again repeat study in approximately two weeks would be helpful 
to definitely prove complete 
resolution of the prior consolidation.  Apical pleural 
thickening persist. 

Non-contrast CT of the head, ___:
 
FINDINGS: There is no evidence of acute hemorrhage or shift of 
normally 
midline structures. There is normal gray-white matter 
differentiation. There is no evidence of hydrocephalus. The 
ventricles and sulci are normal in appearance. The basilar 
cisterns are preserved. There is no evidence of 
acute fracture. The visualized paranasal sinuses are clear. 
  
IMPRESSION: No acute intracranial hemorrhage. 

CT C-spine ___: 
FINDINGS: There is no evidence of acute fracture or 
malalignment. The 
vertebral body heights are preserved. Multilevel degenerative 
changes 
including disc space narrowing and marginal osteophyte formation 
is noted. No prevertebral soft tissue swelling. The lung apices 
are clear. 
  
IMPRESSION: No evidence of acute fracture. Multilevel 
degenerative changes. 

EXAMINATION: Brain MRI, ___: 
 
TECHNIQUE: Sagittal T1, axial T2 FSE, T2 FLAIR, T2, T2 GRE, 
diffusion-weighted sequences of the brain were obtained. 
  
FINDINGS: There are no parenchymal signal or structural 
abnormalities. There is no acute infarct. The flow voids are 
normal. There is marked thickening of the dorsum sellae. 
  
IMPRESSION: No acute findings. 

___: PA AND LATERAL CHEST ___  
  
HISTORY: Right upper chest pain. 
  
IMPRESSION: PA and lateral chest compared to ___ and 
___: 
  
No pleural effusion or pneumothorax. Normal heart, lungs, hila 
and pleural 
surfaces. Widening of the mediastinum due to fat deposition is 
longstanding. 
  
Vertebral and disc space heights in the thoracic spine are 
intact. 

 
Brief Hospital Course:
1. Psychiatric: Pt was transferred to inpatient unit after a 
suicide attempt by OD. Even though after the fact pt reported to 
be happy to be alive, he continued to display poor insight into 
what has triggered his suicide attempt. Given history suggestive 
of potential bipolar disorder and high risk for suicidality, pt 
was initially started on Lithium. However, lithium was 
discontinued due to rise in Cr. Pt was started on Depakote for 
mood stabilizing effects and on Seroquel for bipolar depression 
and anxiety. ___ testing was performed in order for us to get a 
better diagnostic sense of the pt, however pt's results 
indicated him as non responder. As pt continued to demonstrate 
lack of insight, we have consulted Dr ___ 
initiation of ECT to treat suicidality and resistant depression. 
Pt was cleared for ECT and was supposed to start first treatment 
on ___, however as he grew frustrated with the fact that his 
ECT treatment was scheduled for late morning, he refused his ECT 
treatment.  Subsequently, he underwent his first ECT treatment 
on ___ (he was taken early) and tolerated the procedure 
initially with only some minor dizziness and fatigue, but then 
developed myalgias that night.  Given diarrhea (he was started 
on loperamide) and muscle pain, renal function was checked and 
stable (creatinine 1.3), and CK was normal.  He tolerated his 
subsequent treatments on ___ and 
___.  On ___, he was started on propanolol 10 mg TID 
for persistent anxiety; given his high risk for abuse and 
suicide, benzodiazepines were avoided.  On ___, seroquel 
was increased to 200 mg qhs and propanolol to 20 mg TID given 
persistent anxiety. Vistaril was discontinued due to 
anticholinergic effects.  Despite multiple requests, pt. was not 
placed on benzos or opiates during this admission, given that he 
overdosed on these agents and is considered to be at high risk 
for future misuse.  His depression was much improved after 
completing short course of inpatient ECT, although pt. refused 
to complete seven sessions as recommended by Drs. ___ 
___.  
 
2. Medical: Pt was transferred to the inpatient psychiatric unit 
from the medical floor after his suicide attempt. To prevent 
withdrawal from benzodiazepines, pt was put on a quick 
benzodiazepine taper with Valium. Given his acute renal failure, 
pt's Cr was trended for several days and it has stabilized at 
1.2-1.3. Because pt was noted to be more anxious and clingy by 
his wife and psychiatrist, there was a concern for underlying 
deliriogenic process, though pt's attention appeared to be well 
intact. An MRI did not show radiographic signs of anoxic brain 
injury and repeated CXR showed a persistent lower lobe opacity 
(but afebrile, normal white count); a repeat study was therefore 
suggested after New Year's (please see results section for 
further details).  The remainder of the delirium evaluation ws 
unremarkable, although he was noted throughout the 
hospitalization to perseverate in a manner consistent with 
significant memory impairment.  He was started on loperamide for 
diarrhea and vistaril was discontinued (anticholinergic effects 
and risk of overuse when used for prn anxiety).

3. Behavioral: While on the inpatient unit, pt was mostly 
isolative, though visible on the milieu, needing a lot of 
encouragement to attend groups. He was not a behavioral issue on 
the unit. He enjoyed meeting with this treatment team members 
for individual treatment, and was noted to speak frequently with 
his psychiatrist on the telephone.

4. Social/Disposition: During pt's admission, pt was followed by 
social work and several family meetings were conducted in order 
to determine pt's disposition options.  It was thought that he 
would need an outpatient program for continuing therapy... 

5. Legal: ___
Medications on Admission:
HOME MEDS (per patient's report):  
Duloxetine 30 mg po bid
Trazodone 150 mg po qhs
Levothyroxine
Diovan HCT
Simvastatin

MEDICATIONS ON TRANSFER FROM MEDICINE:
Naloxone 2 mg IV x 1 on ___ @ 0207  
Acetylcysteine (IV) 550 mg/hr IV DRIP x 16 Hours 
Heparin 5000 UNIT SC TID  
Senna 1 TAB PO/NG BID:PRN constipation
Docusate Sodium 100 mg PO BID:PRN constipation  
 
Discharge Medications:
1. Camphor-Menthol 0.5-0.5 % Lotion Sig: One (1) Appl Topical 
QID (4 times a day) as needed for itching.
Disp:*1 * Refills:*0*
2. Simvastatin 40 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*30 Tablet(s)* Refills:*0*
3. Levothyroxine 150 mcg Tablet Sig: One (1) Tablet PO once a 
day.
Disp:*30 Tablet(s)* Refills:*0*
4. Trazodone 50 mg Tablet Sig: One (1) Tablet PO HS (at bedtime) 
as needed for insomnia.
Disp:*30 Tablet(s)* Refills:*0*
5. Hydrocortisone 2.5 % Cream Sig: One (1) Appl Rectal every 
eight (8) hours as needed for PRN pruritus.
Disp:*1 1* Refills:*0*
6. Divalproex ___ mg Tablet Sustained Release 24 hr Sig: Two (2) 
Tablet Sustained Release 24 hr PO QHS (once a day (at bedtime)).
Disp:*60 Tablet Sustained Release 24 hr(s)* Refills:*0*
7. Quetiapine 25 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day) as needed for anxiety.
Disp:*60 Tablet(s)* Refills:*0*
8. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q24H (every 24 hours).
Disp:*30 Tablet, Delayed Release (E.C.)(s)* Refills:*0*
9. Valsartan 80 mg Tablet Sig: One (1) Tablet PO once a day.
Disp:*30 Tablet(s)* Refills:*0*
10. Propranolol 20 mg Tablet Sig: One (1) Tablet PO three times 
a day.
Disp:*90 Tablet(s)* Refills:*0*
11. Quetiapine 50 mg Tablet Sig: Three (3) Tablet PO HS (at 
bedtime).
Disp:*90 Tablet(s)* Refills:*0*
12. Zolpidem 10 mg Tablet Sig: One (1) Tablet PO at bedtime as 
needed for Insomnia.
Disp:*30 Tablet(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Axis I: 
Major Depression, severe, recurrent
Rule out substance-induced mood disorder
Rule out adjustment disorder with disturbences of mood and 
behavior
Opiate and benzodiazepine dependence
Axis II: Dependent personality disorder
Axis III: 
history of recent Suicide attempt by overdose with associated 
acute renal failure which is now resolved; has only one kidney; 
hypertension, hyperlipidemia, status post prostate cancer with 
penile implant 
Axis IV: Multiple psychosocial stressors identified
Axis V: GAF upon discharge: 40
 
Discharge Condition:
MSE: overweight caucasian man, no acute distress; generally 
appears less restless, mood: 'good'; affect: less anxious; TC: 
improved future orientation; denies active SI or psychosis; TP: 
generally linear and goal-directed, although can be somewhat 
perseverative and difficult to redirect & reassure; I/J: limited
but stable.

 
Discharge Instructions:
Please follow up with your appointments as scheduled. Please 
continue taking your medications as prescribed. If you feel 
worsening of your symptoms, go to the nearest emergency room or 
call ___
 
Followup Instructions:
___